US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(2-furoyl)-2-(p-anisidino)propionic acid and ethyl 4-(1-phenylethylamino)butyrate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-(2-furoyl)-2-(p-anisidino)propionyl]-4-(1-phenylethylamino)butyric acid.

reactant | N-(2-furoyl)-2-(p-anisidino)propionic acid | O1C(=CC=C1)C(=O)N(C1=CC=C(OC)C=C1)C(C(=O)O)C | C15H15NO5
reactant | ethyl 4-(1-phenylethylamino)butyrate | C1(=CC=CC=C1)C(C)NCCCC(=O)OCC | C14H21NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-(2-furoyl)-2-(p-anisidino)propionyl]-4-(1-phenylethylamino)butyric acid | O1C(=CC=C1)C(=O)N(C1=CC=C(OC)C=C1)C(C(=O)N(CCCC(=O)O)C(C)C1=CC=CC=C1)C | C27H30N2O6
